US07816558B2
12 mg of methyl 2-[3-cyano-4-(4-phenyl-1H-1,2,3-triazol-1-yl)phenyl]isonicotinate was dissolved in a mixture of 234 μl of methanol and 351 μl of THF, then 61 μl of aqueous 1 M sodium hydroxide solution was added, followed by heating under reflux for 3 hours. The reaction mixture was cooled, and neutralized with 61 μl of 1 M hydrochloric acid, then extracted with a mixture of 2-propanol and chloroform (1:4). The organic layer was washed with brine. The solvent of the organic layer was removed under reduced pressure, and the resulting residue was recrystallized from a mixture of 2-propanol and chloroform (1:4) to obtain 4 mg of 2-[3-cyano-4-(4-phenyl-1H-1,2,3-triazol-1-yl)phenyl]isonicotinic acid.

reactant | methyl 2-[3-cyano-4-(4-phenyl-1H-1,2,3-triazol-1-yl)phenyl]isonicotinate | 12 mg | C(#N)C=1C=C(C=CC1N1N=NC(=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CN1 | C22H15N5O2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 61 μl | Cl | ClH
solvent | methanol | 234 μl | CO | CH4O
solvent | THF | 351 μl | C1CCOC1 | C4H8O
product | 2-[3-cyano-4-(4-phenyl-1H-1,2,3-triazol-1-yl)phenyl]isonicotinic acid | 4 mg | C(#N)C=1C=C(C=CC1N1N=NC(=C1)C1=CC=CC=C1)C=1C=C(C(=O)O)C=CN1 | C21H13N5O2
